US08557830B2
A mixture of 4-aminobenzonitrile (35 mg, 299 mmol), N-(3-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine (110 mg, 284 μmol), tris(dibenzylideneacetone)dipalladium(0) (10 mg, 11 μmol), and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (9 mg, 23 μmol) were suspended in THF (1 mL) and sealed. The mixture was sonicated until homogeneously mixed. Lithium bis(trimethylsilyl)amide (1.28 mL, 1280 mmol) was then added through a syringe, then mixed well with sonication. The reaction tube was heated via microwave to 120° C. for 15 min. The reaction mixture was cooled to room temperature, then partitioned between EtOAc (3×50 mL) and NaHCO3 (aq., sat). The organic layer was washed with brine, and extracted with HCl (aq., 1 N, 3×50 mL). The aqueous layers were combined and filtered through a layer of celite. The filter cake was rinsed with 1 N HCl. The filtrate was then cooled in ice and neutralized with NH4OH (aq., conc.) to pH 8, then extracted with EtOAc (4×50 mL). The organic layers were combined, washed with brine, dried over Na2SO4, and then concentrated to give a brown solid which was then triturated with MeOH to give a light brown solid upon filtration. The filter cake was air dried over the weekend to give 4-(5-(3-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile. MS (ESI, pos. ion) m/z: 469.2

reactant | 4-aminobenzonitrile | 299 mmol, 35 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | N-(3-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine | 284 μmol, 110 mg | N1=CN=C(C2=C1NC=C2)C=2C(=NC=CC2)NC=2C=1C=CN=C(C1C=CC2C)Cl | C21H15ClN6
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 23 μmol, 9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | Lithium bis(trimethylsilyl)amide | 1280 mmol, 1.28 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 11 μmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-(3-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile | N1=CN=C(C2=C1NC=C2)C=2C(=NC=CC2)NC2=C1C=CN=C(C1=CC=C2C)NC2=CC=C(C#N)C=C2 | C28H20N8
